US05324747
A mixture of 34 g (0.063 mol) of 3,5-bis(decyloxy)phenylcarbamic acid phenylmethyl ester and 4.0 g of 10% palladium on charcoal in 650 ml of ethyl acetate was shaken under a hydrogen atmosphere at room temperature for 4 hours. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under reduced pressure to yield 25 g (98% yield, mp 48°-50°) of 3,5-bis(decyloxy)benzeneamine.

reactant | 3,5-bis(decyloxy)phenylcarbamic acid phenylmethyl ester | 0.063 mol, 34 g | C1(=CC=CC=C1)COC(NC1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)=O | C34H53NO4
catalyst | palladium on charcoal | 4.0 g | [Pd] | Pd
solvent | ethyl acetate | 650 ml | C(C)(=O)OCC | C4H8O2
product | 3,5-bis(decyloxy)benzeneamine | 25 g, 98% yield | C(CCCCCCCCC)OC=1C=C(C=C(C1)OCCCCCCCCCC)N | C26H47NO2
